US04777283
58.5 g of n-butyl carbamate were initially introduced as a melt and 86 g of phosgene were passed into this melt at 80° C. within 6 hours. 3.1 g (=2 mol %) of methylstearylformamide and 125 g of chlorobenzene were then added. A further 113 g of phosgene were then passed into the mixture at 130° C. within 6 hours and excess phosgene was subsequently blown out using nitrogen. The distillation of the reaction mixture produced 32.2 g (=45% of theory) of butyloxycarbonyl isocyanate having a boiling point from 52° to 54° C. at 24 mbar.

reactant | n-butyl carbamate | 58.5 g | C(N)(OCCCC)=O | C5H11NO2
reactant | phosgene | 86 g | C(=O)(Cl)Cl | CCl2O
reactant | phosgene | 113 g | C(=O)(Cl)Cl | CCl2O
catalyst | methylstearylformamide | 3.1 g | CCCCCCCCCCCCCCCCCCCNC=O | C20H41NO
solvent | chlorobenzene | 125 g | ClC1=CC=CC=C1 | C6H5Cl
product | butyloxycarbonyl isocyanate | 32.2 g, 45% | C(CCC)OC(=O)N=C=O | C6H9NO3
